US05034539
i) 2-Amino-3-(1H-imidazol-4-yl)butanol
7.7 g (30 mmol) methyl 2-amino-3-(1H-imidazol-4-yl)butyrate hydrochloride are added at 0° C. to a stirred suspension of 3.4 g (90 mmol) lithium aluminium hydride in 125 ml tetrahydrofurane. Subsequently, the mixture is refluxed for 3 hours, cooled to 0° C. and and hydrolysed by addition of 6.5 ml water in 15 ml tetrahydrofurane. Stirring with 20 ml 5N sodium hydroxide solution affords a coarse-grained precipitate which is filtered off and extracted by means of 100 ml ethanol in 3 portions. Concentration of the fractions affords an oil which is treated with anhydrous ethanol to separate inorganic material. Filtration and evaporation yield 4 g (85.9%) 2-amino-3-(1H-imidazol-4-yl)butanol wich is converted into the oily dihydrochloride. An analytical sample is converted into dipicrate and recrystallized from ethanol/water. Yellow crystals, melting point 168° C.

reactant | methyl 2-amino-3-(1H-imidazol-4-yl)butyrate hydrochloride | 30 mmol, 7.7 g | Cl.NC(C(=O)OC)C(C)C=1N=CNC1
reactant | lithium aluminium hydride | 90 mmol, 3.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 6.5 ml | O | H2O
reactant | sodium hydroxide | 5N, 20 ml | [OH-].[Na+]
solvent | tetrahydrofurane | 125 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 15 ml | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-3-(1H-imidazol-4-yl)butanol | NC(CO)C(C)C=1N=CNC1 | C7H13N3O
